US06495701B1
Step A. Synthesis of 2-methoxy-6-hydroxycarbazole
2-Nitro-4-methoxyaniline (16.8 g) was added to water (30 mL) and concentrated hydrochloric acid (160 mL). The mixture was stirred at room temperature for 20 minutes and further at 70° C. for 75 minutes. An aqueous solution (30 mL) containing sodium nitrite (11.5 g) was added dropwise to the reaction solution while the reaction solution was maintained at a temperature of 5° C. or less by ice cooling. After the adding was completed, the reaction solution was stirred for 1 hour while maintained at 10° C. The reaction solution was filtered and the residue was washed with water (50 mL). The filtrate was cooled with ice, to which a mixed aqueous solution (120 mL) of sodium hydrogencarbonate (123 g) and 1,4-benzoquinone (12.3 g) was added dropwise over 1 hour. After the adding was completed, the reaction solution was stirred for 4 hours with ice cooling and then filtered. The thus obtained crystal was washed with water, dried, and then dissolved in methanol (200 mL) and acetic acid (20 mL). 10% Palladium/carbon (1.0 g) was added to the mixture, which was stirred under a hydrogen atmosphere at room temperature for 3 hours. The reaction solution was filtered and the residue was washed with methanol (30 mL). Concentrated aqueous ammonia (50 mL) was added dropwise to the filtrate with ice cooling over 5 minutes. After the adding was completed, the reaction solution was allowed to warm to room temperature and stirred for 12 hours. The reaction solution was filtered and the crystal was washed with water and then dried under reduced pressure. The thus obtained crude product was purified by silica gel column chromatography (eluent: 3:1 to 0:1 hexane/ethyl acetate) to give the title compound (2.71 g).

reactant | 2-Nitro-4-methoxyaniline | 16.8 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)OC | C7H8N2O3
reactant | hydrochloric acid | 160 mL | Cl | ClH
reactant | sodium nitrite | 11.5 g | N(=O)[O-].[Na+]
solvent | water | 30 mL | O | H2O
product | 2-methoxy-6-hydroxycarbazole | 2.71 g | COC1=CC=2NC3=CC=C(C=C3C2C=C1)O | C13H11NO2
